US04474602
Preparation of 2-chloro-5-(3,3,3-trichloro-1-methylenepropyl)pyridine
A solution of 40 g (0.013 mole) of 2-chloro-5-(1,3,3,3-tetrachloro-1-methylpropyl)pyridine and 7.8 g (0.026 mole) of SbCl5 in 300 ml of chlorobenzene was heated to 138° C. for one hour. The darkened solution was cooled and carefully quenched with water. The heterogeneous mixture was filtered, the organic layer separated, dried (MgSO4) and concentrated in vacuo. The product was crystallized from 350 ml of pentane at -50° C. The yield was 19.5 g (55%), m.p. 54°-55° C.

reactant | 2-chloro-5-(1,3,3,3-tetrachloro-1-methylpropyl)pyridine | 0.013 mole, 40 g | ClC1=NC=C(C=C1)C(CC(Cl)(Cl)Cl)(C)Cl | C9H8Cl5N
solvent | chlorobenzene | 300 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 2-chloro-5-(3,3,3-trichloro-1-methylenepropyl)pyridine | ClC1=NC=C(C=C1)C(CC(Cl)(Cl)Cl)=C | C9H7Cl4N
